US07244843B2
Step A. Preparation of N,N-diethyl-2-trifluoromethoxybenzamide
To a stirring solution of 2-trifluoromethoxybenzoic acid (3.6 g, 17.5 mmol, Avocado) in dry CH2Cl2 (150 mL) with DMF (0.5 mL) was added a 2M solution of oxalyl chloride in CH2Cl2 (17.5 mL) dropwise over 30 nin. The reaction was stirred for 4 h and then conc. in vacuo to a white solid. The solid was dissolved in CH2Cl2 (150 mL) and reacted with diethylamine (3.2 g, 43.8 mmol, Aldrich) the reaction was stirred for 16 h and then conc. in vacuo to a yellow solid. The solid was purified by radial chromatography (SiO2, 1:5, EtOAc:hexanes) to yield 4.3 grams (94%) of the product as a colorless oil. MS (ESI) 262 (M+H).

reactant | 2-trifluoromethoxybenzoic acid | 17.5 mmol, 3.6 g | FC(OC1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O3
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethylamine | 43.8 mmol, 3.2 g | C(C)NCC | C4H11N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 17.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-2-trifluoromethoxybenzamide | 4.3 grams, 94% | C(C)N(C(C1=C(C=CC=C1)OC(F)(F)F)=O)CC | C12H14F3NO2
